US06083955
Sodium (181 mg) was added to 10 ml of isopropyl alcohol and, after one hour, 100 ml of isopropyl alcohol was added thereto followed by heating at 60° C. to dissolve. To this reaction solution was added 400 mg of N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide with stirring at room temperature. The reaction mixture was stirred at room temperature for 1.25 hours and then at 60° C. for 45 minutes followed by pouring into a mixture of 1N hydrochloric acid and ice. The solution was extracted with chloroform and the chloroform layer was dried over anhydrous magnesium sulfate followed by filtering. The filtrate was concentrated in vacuo and the resulting residue was purified by a silica gel column chromatography (ethyl acetate). The resulting amorphous substance was crystallized in ether and collected by filtration to give 57 mg of N-[6-isopropoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide.

reactant | Sodium | 181 mg | [Na] | Na
reactant | N-[6-chloro-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 400 mg | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C23H18ClN5O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
product | N-[6-isopropoxy-5-(2-methoxyphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 57 mg | C(C)(C)OC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C26H25N5O5S
